US06727264B1
1-(3-CHLOROPROPOXY)-3-FLUOROBENZENE:
Prepared by Procedure U and Scheme AK using 3-fluorophenol and 1-bromo-3-chloropropane.

reactant | 3-fluorophenol | FC=1C=C(C=CC1)O | C6H5FO
reactant | 1-bromo-3-chloropropane | BrCCCCl | C3H6BrCl
product | 1-(3-CHLOROPROPOXY)-3-FLUOROBENZENE | ClCCCOC1=CC(=CC=C1)F | C9H10ClFO
